US03974187
2,3-Dimethoxy-5-methyl-6-pentadecyl-1,4-benzoquinone
Dihexadecanoyl peroxide (4 g; 7.8 mmol) in 20 ml of glacial acetic acid was added portionwise to a stirred solution of 2,3-dimethoxy-5-methyl-1,4-benzoquinone (910 mg; 5 mmol) in 10 ml of glacial acetic acid at 90°-95° C under nitrogen. The reaction mixture was allowed to stir at 90°-95° C for 16 hours. The bright red solution turned yellow orange. The solvent was removed in vacuo and the residue was subjected to a silica gel column and eluted with a mixture of hexane and chloroform. The collected orange fraction was concentrated and further purified on the preparative thin layer plates developed with a mixture of chloroform: hexane: ether (10:10:1) to give 628 mg of pure product. Unreacted starting quinone (250 mg) was recovered as orange crystals; Yield 44%. Anal. (C24H40O4) C,H.

reactant | Dihexadecanoyl peroxide | 7.8 mmol, 4 g | C(CCCCCCCCCCCCCCC)(=O)OOC(CCCCCCCCCCCCCCC)=O | C32H62O4
reactant | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 5 mmol, 910 mg | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethoxy-5-methyl-6-pentadecyl-1,4-benzoquinone | 628 mg, Yield 44% | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCCCCCC)=O | C24H40O4
